US05869482
A mixture of Z-2-fluoro-3-(2-tributylstannylethenyl)pyridine (1.39 g), 2-fluoro-3-iodopyridine (0.75 g) and bis(triphenylphosphine)palladium dichloride (0.010 g) in toluene (20 mL) was refluxed under argon for 4 hours. Most of the solvent was evaporated and the residue was treated overnight with aqueous potassium fluoride. The organic phase was dried and evaporated to give Z-1,2-di-(2-fluoropyridinyl)ethylene as a solid which was recrystallized from hexane/ethyl acetate (0.47 g) mp 93°-95° C.

reactant | Z-2-fluoro-3-(2-tributylstannylethenyl)pyridine | 1.39 g | FC1=NC=CC=C1\C=C/[Sn](CCCC)(CCCC)CCCC
reactant | 2-fluoro-3-iodopyridine | 0.75 g | FC1=NC=CC=C1I | C5H3FIN
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium dichloride | 0.010 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Z-1,2-di-(2-fluoropyridinyl)ethylene | FC1=NC=CC=C1\C=C/C=1C(=NC=CC1)F | C12H8F2N2
